US07399759B2
6-Cyano-2,2′-bipyridyl
2,2′-Bipyridyl N-oxide (2.8 g, 16 mmol) was dissolved in nitroethane (50 ml), and trimethylsilyl cyanide (6.4 g, 65 mmol) and N,N-dimethylcarbamoyl chloride (3.7 g, 35 mmol) were added thereto. The mixture was stirred at room temperature for 36 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with hexane-ethyl acetate (3:1, v/v) were collected, concentrated and recrystallized from hexane-ethyl acetate to give the titled compound (1.2 g, 43%) as white crystals.

reactant | 2,2′-Bipyridyl N-oxide | 16 mmol, 2.8 g | [N+]=1(C(=CC=CC1)C1=NC=CC=C1)[O-] | C10H8N2O
reactant | trimethylsilyl cyanide | 65 mmol, 6.4 g | C[Si](C)(C)C#N | C4H9NSi
reactant | N,N-dimethylcarbamoyl chloride | 35 mmol, 3.7 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | nitroethane | 50 ml | [N+](=O)([O-])CC | C2H5NO2
product | 6-Cyano-2,2′-bipyridyl | 1.2 g, 43% | C(#N)C1=CC=CC(=N1)C1=NC=CC=C1 | C11H7N3
